US08114651B2
By using a cell lysate prepared from 2-e-2 cells at OD660 of 7 according to the method described in <5>, the reaction characteristics for various amino acids were evaluated. The cell lysate and a substrate solution were mixed, then the reaction proceeded at 30° C. for 1 hour, and the production of new substances was evaluated by TLC or amino acid analysis. The substrate reaction mixture contained 5 mM amino acid, 5 mM Fe2+, 5 mM 2-oxoglutaric acid, 5 mM ascorbic acid, and 100 mM HEPES (pH 7). In addition to L-isoleucine, the amino acids L-leucine, L-valine, L-glutamic acid, and L-lysine were each individually evaluated. The 4-hydroxyisoleucine which was produced was analyzed by the method described in Example 1. The results are shown in Table 6. Production of amino acids other than L-isoleucine was not observed. Therefore, it was suggested that this enzyme was an isoleucine-specific dioxygenase.

reactant | 2-oxoglutaric acid | 5 mM | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | ascorbic acid | 5 mM | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | HEPES | 100 mM, pH 7 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | L-isoleucine | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | L-valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | L-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | 4-hydroxyisoleucine | OC([C@@H]([C@H](N)C(=O)O)C)C | C6H13NO3
